US08685992B2
Preparation of methyl 5-[({[3-(4-fluorophenyl)-5-(2-thienyl)-1H-pyrrol-2-yl]carbonyl}amino)methyl]pyrazine-2-carboxylate
This material was prepared using a method substantially similar to that of Example 5 from 3-(4-fluorophenyl)-5-(2-thienyl)-1H-pyrrole-2-carboxylic acid and methyl 5-(aminomethyl)pyrazine-2-carboxylate hydrochloride, yielding the title compound. Methyl 5-[({[3-(4-fluorophenyl)-5-(2-thienyl)-1H-pyrrol-2-yl]carbonyl}amino)methyl]pyrazine-2-carboxylate: Yield 76%; 1H-NMR (500 MHz, δ ppm, CDCl3) 9.47 (sb, 1H), 9.07 (s, 1H), 8.64 (s, 1H), 7.47 (dd, J=8.3 Hz, J′=5.5 Hz, 2H), 7.24 (d, J=4.5 Hz, 1H), 7.21 (d, J=3.0 Hz, 1H), 7.16 (t, J=8.6 Hz, 2H), 7.06 (dd, J=4.5 Hz, J′=4.1 Hz, 1H), 6.64 (t, J=4.6 Hz, 1H), 6.40 (d, J=2.9 Hz, 1H), 4.72 (d, J=5.2 Hz, 2H), 4.04 (s, 3H).

reactant | 3-(4-fluorophenyl)-5-(2-thienyl)-1H-pyrrole-2-carboxylic acid | FC1=CC=C(C=C1)C1=C(NC(=C1)C=1SC=CC1)C(=O)O | C15H10FNO2S
reactant | methyl 5-(aminomethyl)pyrazine-2-carboxylate hydrochloride | Cl.NCC=1N=CC(=NC1)C(=O)OC
product | methyl 5-[({[3-(4-fluorophenyl)-5-(2-thienyl)-1H-pyrrol-2-yl]carbonyl}amino)methyl]pyrazine-2-carboxylate | Yield 76% | FC1=CC=C(C=C1)C1=C(NC(=C1)C=1SC=CC1)C(=O)NCC=1N=CC(=NC1)C(=O)OC | C22H17FN4O3S
